US08440689B2
B. Methyl 2-chloro-4-cyanonicotinate
A solution of methyl 2-chloro-4-iodonicotinate (3.20 g, 10.76 mmol) and cyanocopper (0.963 g, 10.76 mmol) in DMA (40 mL) was stirred at 140° C. overnight. Following reaction, the mixture was filtered through Celite and the filtrate was diluted with H2O and EtOAc. The aqueous phase was extracted with EtOAc. The organic phases were combined, washed with H2O and brine, dried over MgSO4, and evaporated. The residue was purified by chromatography on SiO2 (Hexane/EtOAc=10/1) to give the title compound as a white solid (730 mg, 34.5%). 1H NMR (500 MHz, CDCl3) δ ppm 4.07 (s, 3H), 7.57 (d, J=5.37 Hz, 1H), 8.66 (d, J=4.88 Hz, 1H).

reactant | methyl 2-chloro-4-iodonicotinate | 10.76 mmol, 3.20 g | ClC1=C(C(=O)OC)C(=CC=N1)I | C7H5ClINO2
reactant | cyanocopper | 10.76 mmol, 0.963 g | C(#N)[Cu]
solvent | DMA | 40 mL | CC(=O)N(C)C | C4H9NO
product | Methyl 2-chloro-4-cyanonicotinate | 730 mg, 34.5% | ClC1=C(C(=O)OC)C(=CC=N1)C#N | C8H5ClN2O2
